US07915271B2
2′-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-methoxy-4′-(trifluoromethyl)biphenyl-3-carbaldehyde
A mixture of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)-benzyl]-4-methyl-1,3-oxazolidin-2-one (0.50 g, 0.84 mmol), 5-formyl 2-methoxy phenyl boronic acid (0.22 g, 1.25 mmol), tetrakis(triphenylphosphine) palladium (48 mg, 5% mol) and sodium carbonate (0.19 g, 1.84 mmol) in 20 ml of water/EtOH/toluene (1:2:4) was heated to reflux for 4 h. TLC (CH2Cl2:hexane/1:1) showed that the reaction was over. The solvents were removed. Water (30 ml) was added. The organic was extracted with methylene chloride (3×40 ml). The combined methylene chloride layers were washed with brine, and dried over sodium sulfate. The title compound was obtained after flash column using EtOAc:hexane/3:7 as the eluant. 1H NMR (CDCl3, 500 MHz): δ 1:1 mixture of atropisomers 9.95 (s, 1H), 7.62-7.98 (m, 6H), 7.42 (m, 1H), 7.17 (m, 2H), 5.65 (d, J=8 Hz, 0.5H), 5.20 (d, J=8 Hz, 0.5H), 4.96 (d, J=15.5 Hz, 0.5H), 4.92 (d, J=16.5 Hz, 0.5H), 3.85-4.10 (m, 2H), 3.98 (s, 1.5H), 3.92 (s, 1.5H), 0.59 (d, J=6.5 Hz, 1.5H), 0.42 (d, J=6 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)-benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.84 mmol, 0.50 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
reactant | 5-formyl 2-methoxy phenyl boronic acid | 1.25 mmol, 0.22 g | C(=O)C=1C=CC(=C(C1)B(O)O)OC | C8H9BO4
reactant | sodium carbonate | 1.84 mmol, 0.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water EtOH toluene | 20 ml | O.CCO.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine) palladium | 48 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | 2′-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-methoxy-4′-(trifluoromethyl)biphenyl-3-carbaldehyde | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)C=O)C)(F)F | C28H20F9NO4
